US07115750B1
N-Phenyl-4-[[2-(2-piperidinoethyl)-6-tetralinyl]oxymethyl]benzamide
Triethylamine (0.11 ml) was added to THF suspension (3 ml) of 4-[[2-(2-piperidinoethyl)-6-tetralinyl]oxymethyl]benzoate (300 mg). Further, THF solution (0.5 ml) of trimethylacetyl chloride (92 mg) was added dropwise under ice-cooling, which was stirred for 30 minutes. The temperature of the reaction mixture was raised to room temperature, which was stirred for 1 hour. THF solution (0.5 ml) of aniline (85 mg) was added dropwise to the reaction mixture under ice-cooling, which was stirred for 1 hour. After the reaction mixture was stirred for 24 hours at room temperature, saturated sodium bicarbonate solution was added, and extraction was conducted using a mixed solution of ethyl acetate and THF. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried, and then concentrated. The residue was recrystallized from THF-methanol-IPE to give the titled compound (150 mg).

reactant | 4-[[2-(2-piperidinoethyl)-6-tetralinyl]oxymethyl]benzoate | 300 mg | N1(CCCCC1)CCC1CC2=CC=C(C=C2CC1)OCC1=CC=C(C(=O)[O-])C=C1
reactant | trimethylacetyl chloride | 92 mg | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | aniline | 85 mg | NC1=CC=CC=C1 | C6H7N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | Triethylamine | 0.11 ml | C(C)N(CC)CC | C6H15N
product | N-Phenyl-4-[[2-(2-piperidinoethyl)-6-tetralinyl]oxymethyl]benzamide | 150 mg | C1(=CC=CC=C1)NC(C1=CC=C(C=C1)COC=1C=C2CCC(CC2=CC1)CCN1CCCCC1)=O | C31H36N2O2
